US04067884
133 g of perfluoropropylvinyl ether, 30 g of CsF and 80 ml of diglyme were introduced into an autoclave provided with a shaking device and 83 g of perfluoropropionic acid fluoride were incorporated by condensation. The mixture obtained was stirred for 48 hours at 40° C. The treatment of the reaction mixture yielded 124 g of the above mentioned ketone having a boiling point from 92° to 94° C (yield of 57.5% of the theory). The structure could be confirmed by 19F-NMR, IR and mass spectra and by C/F- analysis.

reactant | perfluoropropylvinyl ether | 133 g | FC(=C(C(C(C(F)(F)F)(F)F)(F)F)F)OC(=C(F)C(C(C(F)(F)F)(F)F)(F)F)F | C10F18O
reactant | CsF | 30 g | [F-].[Cs+]
reactant | diglyme | 80 ml | COCCOCCOC | C6H14O3
product | perfluoropropionic acid fluoride | 83 g, yield of 57.5% | FC(C(=O)F)(C(F)(F)F)F | C3F6O
